US04555518
4. 2-[(4-Methoxy-3,5-dimethyl-2-pyridyl)methylthio]-5-trifluoromethoxy-1H-benzimidazole
5 ml of 4M sodium hydroxide solution are added dropwise to a mixture of 2.34 g of 2-mercapto-5-trifluromethoxy-1H-benzimidazole and 2.2 g of 2-chloromethyl-4-methoxy-3,5-dimethylpyridine hydrochloride in 50 ml of ethanol at room temperature and the mixture is stirred overnight at room temperature. The solvent is distilled off in vacuo, water is added, the mixture is extracted with ethyl acetate, the solution is dried and 4.3 g (95%) of the dihydrochloride of the title compound are precipitated with 4M hydrogen chloride in ether. The salt is dissolved in water and the base is precipitated with dilute sodium carbonate solution at pH 8 and recrystallized from diisopropyl ether. 3.0 g (78%) of the title compound of m.p. 152°-154° C. are obtained.

reactant | sodium hydroxide | 4M, 5 ml | [OH-].[Na+]
reactant | 2-mercapto-5-trifluromethoxy-1H-benzimidazole | 2.34 g | SC1=NC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | 2-chloromethyl-4-methoxy-3,5-dimethylpyridine hydrochloride | 2.2 g | Cl.ClCC1=NC=C(C(=C1C)OC)C
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[(4-Methoxy-3,5-dimethyl-2-pyridyl)methylthio]-5-trifluoromethoxy-1H-benzimidazole | 3.0 g, 78% | COC1=C(C(=NC=C1C)CSC1=NC2=C(N1)C=CC(=C2)OC(F)(F)F)C | C17H16F3N3O2S
